US06043358
Employing the procedure described in Example 2, step A, 3-propyl-tetrahydrothiopyran-4-one was reacted with hydroxylamine hydrochloride to form 4-oximino-3-propyl-tetrahydrothiopyran and was used directly in the subsequent reaction.

reactant | 3-propyl-tetrahydrothiopyran-4-one | C(CC)C1CSCCC1=O | C8H14OS
reactant | hydroxylamine hydrochloride | Cl.NO
product | 4-oximino-3-propyl-tetrahydrothiopyran | N(O)=C1C(CSCC1)CCC | C8H15NOS
